US05559230
To 5-{N-methyl-N-[3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propyl]amino}-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.4 g) is added a mixture of acetyl chloride (0.5 ml) and acetic acid (5 ml) at room temperature, and the mixture is stirred overnight. The reaction solution is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=30:1), and further purified again by silica gel column chromatography (eluent; n-hexane:ethyl acetate=1:2) to give 5-[N-methyl-N-(3-acetyloxypropyl)amino]-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.06 g) as colorless amorphous.

reactant | 5-{N-methyl-N-[3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propyl]amino}-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.4 g | CN(CCCOC1OCCCC1)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C34H41N3O4
reactant | acetyl chloride | 0.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[N-methyl-N-(3-acetyloxypropyl)amino]-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.06 g | CN(CCCOC(C)=O)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C31H35N3O4
